US08404694B2
A mixture of 5-cyclopropyl-1H-pyrazol-3-amine (415 mg, 3.37 mmol) and sodium (Z)-3-ethoxy-3-oxoprop-1-en-1-olate (0.791 g, 5.73 mmol) in EtOH (3 mL) and toluene (1 mL) was heated to 80° C. in a resealable tube. After 16 hrs the solvent was removed in vacuo. The resulting residue was dissolved in a minimal amount of warm water and triturated with 1 N HCl with cooling (0° C.) until the pH ˜1. The resulting solid was filtered and washed with water to afford 2-cyclopropylpyrazolo[1,5-a]pyrimidin-7-ol as an off-white solid that was advanced without further purification. M+H+ found=176.2.

reactant | 5-cyclopropyl-1H-pyrazol-3-amine | 3.37 mmol, 415 mg | C1(CC1)C1=CC(=NN1)N | C6H9N3
reactant | sodium (Z)-3-ethoxy-3-oxoprop-1-en-1-olate | 5.73 mmol, 0.791 g | C(C)OC(\C=C/[O-])=O.[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 2-cyclopropylpyrazolo[1,5-a]pyrimidin-7-ol | C1(CC1)C1=NN2C(N=CC=C2O)=C1 | C9H9N3O
